US04904657
A mixture of 2.50 g of ethyl 2-pyridylacetate and 2.79 g of 2-cyano-3-methoxy-3-phenylacrylonitrile was dissolved in 15 ml of dry N,N-dimethylformamide. To the solution was added 0.61 g of 60% sodium hydride and the reaction mixture was stirred for 1 hour at 60° C. The reaction mixture was poured into ice-water, and precipitated crystals were collected by filtration, washed with water and dried under vacuum to obtain 2.50 g of 3-cyano-1-ethoxycarbonyl-4-imino-2-phenyl-4H-quinolizine.

reactant | ethyl 2-pyridylacetate | 2.50 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | 2-cyano-3-methoxy-3-phenylacrylonitrile | 2.79 g | C(#N)C(C#N)=C(C1=CC=CC=C1)OC | C11H8N2O
reactant | sodium hydride | 0.61 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-cyano-1-ethoxycarbonyl-4-imino-2-phenyl-4H-quinolizine | 2.50 g | C(#N)C1=C(C(=C2C=CC=CN2C1=N)C(=O)OCC)C1=CC=CC=C1 | C19H15N3O2
